US05449785
To a stirred solution of 2,4-di-O-benzyl-3-O-methyl-a,b-D-xylopyranosyl acetate (20 g, 0.052 mole) and Me3SiCN (20 ml, 0.16 mole) in anhydrous nitromethane (300 ml) was added boron trifluoride etherate (1.0 g, 0.007 mole) at room temperature. After the mixture was stirred at room temperature for 30 min, the mixture was evaporated to dryness under reduced pressure. The residue was chromatographed on silica gel using CH2Cl2 /AcOEt (99:1) as an eluent to give 2,4-di-O-benzyl-3-O-methyl-a,b-D-xylopyranosyl cyanide as colorless oil (13.0 g, 71% yield); EI-MS: m/z 353 (M+), 262 (M+ -Bn); 1H-NMR of b-cyano-isomer (CDCl3)d; 3.15 (1H,dd,J=10,11 Hz), 3.23 (1H,t,J=10 Hz), 3.49 (1H,m), 3.59 (1H,t,J=10 Hz), 3.66 (3H,s), 3.96 (1H,dd,J=5 & 11 Hz), 3.97 (1 H,d,J=10 Hz), 4.61 (1H,d,J=12 Hz),4.73 (1H,d,J=12 Hz), 4.84 (1H,d,J=11 Hz), 4.88 (1H,d,J=11 Hz), 7.29~7.42 (10H, m).

reactant | 2,4-di-O-benzyl-3-O-methyl-a,b-D-xylopyranosyl acetate | 0.052 mole, 20 g | C(C)(=O)OC1[C@H](OCC2=CC=CC=C2)[C@@H](OC)[C@H](OCC2=CC=CC=C2)CO1 | C22H26O6
reactant | Me3SiCN | 0.16 mole, 20 ml | [Si](C)(C)(C)C#N | C4H9NSi
reactant | boron trifluoride etherate | 0.007 mole, 1.0 g | B(F)(F)F.CCOCC
solvent | nitromethane | 300 ml | [N+](=O)([O-])C | CH3NO2
product | 2,4-di-O-benzyl-3-O-methyl-a,b-D-xylopyranosyl cyanide | 13.0 g, 71% yield | C(C1=CC=CC=C1)O[C@H]1C(OC[C@H]([C@@H]1OC)OCC1=CC=CC=C1)C#N | C21H23NO4
